US03956492
7-Bromo-5-(2'-chloro-phenyl)-1,3-dihydro-1-methyl-3-[N-methyl-N-(morpholinocarbonyl-methyl)-amino-methylene]-2H-1,4-benzodiazepin-2-one by method A
A suspension of 8.4 gm of 7-bromo-5-(2'-chlorophenyl)-1,3-dihydro-3-(dimethylamino-methylene)-1-methyl-2H-1,4-benzodiazepin-2-one in 45 gm of sarcosine morpholide was heated to 160°C, while stirring, whereby a clear solution was formed after some time, which was stirred for 90 minutes more at 160°C. Thereafter, the reaction mixture was allowed to cool and was then taken up in a mixture consisting of 150 ml each of tetrahydrofuran and ether. The resulting solution was washed three times with 100 ml of water each, and the organic phase was dried over magnesium sulfate and evaporated in vacuo. The residue was purified on a silicagel column, using a 19:1-mixture of chloroform and methanol as the flow agent. Those fractions containing the desired compound were combined, the solvent mixture was distilled off in vacuo, and the residue was recrystallized from tetrahydrofuran, yielding the compound of the formula ##SPC8##

reactant | 7-bromo-5-(2'-chlorophenyl)-1,3-dihydro-3-(dimethylamino-methylene)-1-methyl-2H-1,4-benzodiazepin-2-one | 8.4 gm | BrC=1C=CC2=C(C(=NC(C(N2C)=O)=CN(C)C)C2=C(C=CC=C2)Cl)C1 | C19H17BrClN3O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | ether | CCOCC | C4H10O
reactant | sarcosine morpholide | 45 gm | N(C)CC(=O)N1CCOCC1 | C7H14N2O2
product | 7-Bromo-5-(2'-chloro-phenyl)-1,3-dihydro-1-methyl-3-[N-methyl-N-(morpholinocarbonyl-methyl)-amino-methylene]-2H-1,4-benzodiazepin-2-one | BrC=1C=CC2=C(C(=NC(C(N2C)=O)=CN(CC(=O)N2CCOCC2)C)C2=C(C=CC=C2)Cl)C1 | C24H24BrClN4O3
